US07501538B2
(S)-2-Tert-butoxycarbonylamino-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester (290 mg, 0.66 mmol) was treated with 4 mL of 4N HCl in dioxane for 1 h at room temperature. The solvent was evaporated and the remaining solid triturated with diethyl ether to give (S)-2-amino-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester-hydrochloride (214 mg).

reactant | (S)-2-Tert-butoxycarbonylamino-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester | 0.66 mmol, 290 mg | COC([C@H](CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C26H35NO5
reactant | HCl | 4N, 4 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-2-amino-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester-hydrochloride | 214 mg | Cl.COC([C@H](CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(C)(C)C)N)=O | InChI=1S/C21H27NO3.ClH/c1-21(2,3)17-9-5-16(6-10-17)14-25-18-11-7-15(8-12-18)13-19(22)20(23)24-4;/h5-12,19H,13-14,22H2,1-4H3;1H/t19-;/m0./s1
